US08247429B2
methyl 6-(dibenzylamino)-3-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]pyridine-2-carboxylate
A suspension of methyl 3-bromo-6-(dibenzylamino)pyridine-2-carboxylate (3.16 g, 7.68 mmol), palladium acetate (172 mg, 0.768 mmol), triphenylphosphine (404 mg, 1.54 mmol), potassium carbonate-(1.59 g, 11.5 mmol) and methyl acrylate (1.21 mL, 15.4 mmol) in N,N-dimethylformamide (77 mL) was stirred with heating at 120° C. for 12 hr. The reaction solution was diluted with diethyl ether, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→40/60) to give the title compound (2.60 g, yield 81%).

reactant | methyl 3-bromo-6-(dibenzylamino)pyridine-2-carboxylate | 7.68 mmol, 3.16 g | BrC=1C(=NC(=CC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)C(=O)OC | C21H19BrN2O2
reactant | triphenylphosphine | 1.54 mmol, 404 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate- | 11.5 mmol, 1.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl acrylate | 15.4 mmol, 1.21 mL | C(C=C)(=O)OC | C4H6O2
solvent | N,N-dimethylformamide | 77 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium acetate | 0.768 mmol, 172 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 6-(dibenzylamino)-3-[(1E)-3-methoxy-3-oxoprop-1-en-1-yl]pyridine-2-carboxylate | 2.60 g, yield 81% | C(C1=CC=CC=C1)N(C1=CC=C(C(=N1)C(=O)OC)\C=C\C(=O)OC)CC1=CC=CC=C1 | C25H24N2O4
